US08629137B2
3-{1-[6-(3-ethyl-4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
44 mg (0.20 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one, 50 mg (0.20 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-3-ethyl-4-methyl-3H-benzoxazol-2-one and 56 μL (0.30 mmol) DIPEA were combined in 2 mL DMF and stirred overnight at RT. The reaction mixture was purified by preparative HPLC. The fractions containing the product were combined, the organic solvent was evaporated down and the residue was neutralised with 1N aqueous sodium hydroxide solution. The precipitate formed was suction filtered, washed with water and dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.20 mmol, 44 mg | COC1=CC2=C(NC(N(CC2)C2CCNCC2)=O)C=C1 | C15H21N3O2
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-3-ethyl-4-methyl-3H-benzoxazol-2-one | 0.20 mmol, 50 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)CC)C(=C1)C | C15H12ClN3O3
reactant | DIPEA | 0.30 mmol, 56 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-{1-[6-(3-ethyl-4-methyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | C(C)N1C(OC2=C1C(=CC(=C2)C(=O)C2=CC(=NC=N2)N2CCC(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)C)=O | C30H32N6O5
